US07566699B2
To a suspension of 2′-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-6′-methoxycarbonylmethoxy-4′-methylacetophenone (0.35 g) and p-tolualdehyde (81 mg) in ethanol (10 mL) were added water (1.7 mL) and potassium hydroxide (0.41 g), and the mixture was stirred at room temperature for 4 hours. The reaction mixture was poured into 1 mol/L hydrochloric acid (7.5 mL), and the resulting mixture was extracted with ethyl acetate twice. The extracts were combined and washed with brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was dissolved in methanol (6 mL)-tetrahydrofuran (1 mL). To the solution was added 10% palladium-carbon powder (0.11 g), and the mixture was stirred at room temperature under a hydrogen atmosphere for 2 hours. The insoluble material was removed by filtration, and the filtrate was concentrated under reduced pressure. To the residue were added sodium acetate (1.15 g), acetic acid (6 mL) and acetic anhydride (1.16 mL), and the mixture was stirred at 115° C. overnight. The reaction mixture was cooled to room temperature and poured into water, and the resulting mixture was extracted with ethyl acetate. The extract was washed with a saturated aqueous sodium hydrogen carbonate solution twice, water and brine successively, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=2/1) to give 4-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-6-methyl-3-[2-(4-methylphenyl)ethyl]benzofuran (0.11 g). This material was dissolved in methanol (5 mL). To the solution was added sodium methoxide (28% methanol solution, 0.036 mL), and the mixture was stirred at room temperature for 1 hour. The reaction mixture was purified by VARIAN BOND ELUT-SCX (eluent: methanol) to give the title compound (74 mg).

reactant | 2′-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-6′-methoxycarbonylmethoxy-4′-methylacetophenone | 0.35 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=C(C(=CC(=C1)C)OCC(=O)OC)C(C)=O | C26H32O14
reactant | p-tolualdehyde | 81 mg | C1(=CC=C(C=C1)C=O)C | C8H8O
reactant | potassium hydroxide | 0.41 g | [OH-].[K+]
reactant | hydrochloric acid | 1 mol/L, 7.5 mL | Cl | ClH
reactant | ethanol | 10 mL | C(C)O | C2H6O
solvent | water | 1.7 mL | O | H2O
product | 4-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-6-methyl-3-[2-(4-methylphenyl)ethyl]benzofuran | 0.11 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=CC(=CC2=C1C(=CO2)CCC2=CC=C(C=C2)C)C | C32H36O11
